US06649227B2
The synthetic intermediate (13) is reacted with triphenylphophonium halide (32) in the same manner as described above in an ether base solvent such as THF and diethyl ether in the presence of a base such as sodium methylate, potassium t-butoxide (t-BuOK) and butyl lithium and then dehydrated by virtue of an action of a mineral acid such as hydrochloric acid and sulfuric acid or an organic acid such as formic acid and p-toluenesulfonic acid, whereby an aldehyde compound (34) is obtained. The compound (34) is reacted with a diol compound (35) by virtue of an action of a mineral acid such as hydrochloric acid and sulfuric acid or an organic acid such as formic acid and p-toluenesulfonic acid, whereby a dioxane ring can be introduced as shown in a compound (36):

reactant | sodium methylate | C[O-].[Na+]
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | butyl lithium | C(CCC)[Li]
reactant | hydrochloric acid | Cl | ClH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | formic acid | C(=O)O | CH2O2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
